data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_6319_0,[C:1](/[C:5](=[C:3](/[C:2]([N:4]([H:9])[H:10])=[O:7])[O:6][H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([H:11])[C:3]([O:6][H:8])=[C:2]([N:4]([H:9])[H:10])[O:7]1)([H:12])([H:13])[H:14],65.20854500001349
MR_587445_0,[C:1](=[N:6][C:5]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([C:4](=[O:7])[H:10])[H:11])([H:8])[H:9]>>[C:1]([C:4](=[O:7])[H:10])(/[N:6]=[C:5](/[C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9],66.9755850000108
MR_93813_0,[C:1](/[C:3]([O:5][H:7])=[N:6]/[C:2]([H:12])([H:13])[H:14])([N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@:3]([O:5][H:7])([N:6]([C:2]([H:12])([H:13])[H:14])[H:9])[N:4]1[H:8],57.42189750001913
MR_211470_0,[C:1]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[N:5]([H:8])[H:9])=[O:7])([N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([N:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:7])[N:5]([H:8])[H:9])([N:6]([H:10])[H:11])([H:12])[H:13],66.64363749995715
MR_95782_0,[C@@:1]([C:2]([H:14])([H:15])[H:16])([C:3]([O:7][H:11])=[O:8])([C:4]([N:5]([H:12])[H:13])=[O:9])[O:6][H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:3](/[O:7][H:11])[O:8][C:4]([N:5]([H:12])[H:13])=[O:9])[O:6][H:10],73.2236024999662
MR_142951_2,[C:1]([O:6][N:3]([N:4]([H:8])[H:9])/[C:5](=[N:7]/[C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13]>>[C:1]([O:6][C:5](/[N:3]=[N:4]/[H:9])([N:7]([C:2]([H:14])([H:15])[H:16])[H:8])[H:10])([H:11])([H:12])[H:13],28.16471000001542
MR_518966_1,[C:1](/[C:2]([N:3]([H:10])[H:11])=[N:6]/[H:12])(/[C:4](=[N:7]\[H:13])[H:14])([O:5][H:8])[H:9]>>[C:1](=[C:2](/[N:3]([H:10])[H:11])[N:6](/[C:4](=[N:7]\[H:13])[H:14])[H:12])(\[O:5][H:8])[H:9],69.52637249999114
MR_620887_1,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:8])[C:6]([H:12])=[C:5]([H:11])[N:3]([N:4]([H:9])[H:10])[O:7]1>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:8])[C:6](/[C:5](=[N:3]/[N:4]([H:9])[H:10])[H:11])([H:12])[O:7]1,30.286287500009337
MR_512238_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[N:6]([O:7][H:10])[H:8])(/[N:4]=[N:5]/[H:9])([H:11])[H:12]>>[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[N:6]=[O:7])([N:4]([N:5]([H:9])[H:10])[H:8])([H:11])[H:12],34.26652000001894
MR_601011_0,[N:1]([C:2]([C:4](=[O:7])[H:11])=[C:5]([H:12])[H:13])([N:3]([H:9])[H:10])[O:6][H:8]>>[N:1]([C:2](=[C:5]([H:12])[H:13])[O:6][H:8])([N:3]([H:9])[H:10])[C:4](=[O:7])[H:11],67.69909250000325
MR_563183_0,[C:1](/[C:2]([O:5][H:8])=[N:6]\[C:3]([N:4]([H:9])[H:10])=[N:7]\[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:2]1([O:5][H:8])[N:6]=[C:3]([N:4]([H:9])[H:10])[N:7]1[H:11])([H:12])([H:13])[H:14],25.1539649999836
MR_75754_0,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])([C:5]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([N:6]([H:10])[H:11])[H:9]>>[C:1]1([N:6]([H:10])[H:11])([H:9])[C:5]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])[C:7]1([H:18])[H:19],72.30557000000118
MR_123071_1,[C:1](=[C:2]([C:3](\[N:6]([H:14])[H:15])=[N:9]/[H:16])/[N:5]([H:12])[H:13])(\[N:4]([H:10])[H:11])[N:8]=[C:7]([H:17])[H:18]>>[C:1](=[C:2](\[N:5]([H:12])[H:13])[N:8]=[C:7]([H:17])[H:18])(\[C:3]([N:6]([H:14])[H:15])=[N:9]/[H:16])[N:4]([H:10])[H:11],65.22737000000163
MR_442050_0,[C@:1]([C:2]([O:7][H:10])=[O:9])(/[C:3]([N:6]([H:16])[H:17])=[N:8]\[N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[H:11]>>[C:1](=[C:3](/[N:6]([H:16])[H:17])[N:8]([C:2]([O:7][H:10])=[O:9])[N:4]([H:12])[H:13])(\[N:5]([H:14])[H:15])[H:11],54.18587999998536
MR_383428_1,[C:1]([N:4]([H:11])[H:12])([C:6](/[C:3]([N:5]([H:13])[H:14])=[N:9]\[H:15])([N:8]([C:2]([H:17])([H:18])[H:19])[H:10])[H:16])=[O:7]>>[C:1](/[C:3]([N:5]([H:13])[H:14])=[N:9]\[H:15])([N:4]([H:11])[H:12])(/[C:6](=[N:8]/[C:2]([H:17])([H:18])[H:19])[H:16])[O:7][H:10],67.12932250001501
MR_446866_2,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:5]1([O:6][O:7][H:10])[C:4](=[O:8])[O:9]1)[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([O:6][O:7][H:10])=[O:9])=[O:8])[H:11],38.830327499981934
MR_383808_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:9]\[H:10])/[C:7](=[C:8](\[C:5]([H:22])([H:23])[H:24])[H:12])[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:7]([C@:8]([C:5]([H:22])([H:23])[H:24])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:9]\[H:10])[H:12])[H:11],72.8019225000321
MR_5353_0,[C:1]([C:2](=[C:3]([H:15])[H:16])[H:10])([C:4]([C:5](=[C:7]([H:18])[H:19])[H:12])([C:6]([H:13])([H:14])[H:17])[H:11])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([H:10])[H:11])([C:4]([C:5](=[C:7]([H:18])[H:19])[H:12])=[C:6]([H:13])[H:14])([H:8])[H:9],68.30651249996777
MR_52395_0,[C:1]([C:3](=[O:7])[H:10])([O:4][C:2]([H:11])([H:12])[H:13])([O:5][H:8])[O:6][H:9]>>[C:1]([C:3]([O:4][C:2]([H:11])([H:12])[H:13])([O:7][H:9])[H:10])([O:5][H:8])=[O:6],32.80946499995238
